US08609660B2
Di-tert-butyldicarbonate (4.84 g, 22.16 mmol) was added portionwise to a stirred solution of rac-2-amino-2-(3-bromo-phenyl)-propan-1-ol (1.7 g, 7.39 mmol) in a mixture of sat NaHCO3 (15 mL) and THF (15 mL) at 0° C. The mixture was stirred at 0° C. for 10 minutes and at room temperature for 15 hours. The mixture was cooled in an ice water bath and acidified with stirring till pH 1-2 with KHSO4. The organic layer was separated and the aqueous layer was further extracted with AcOEt. The combined organic layers were separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 20/80). The desired fractions were collected and concentrated in vacuo to yield rac-[1-(3-bromo-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid tert-butyl ester (2.36 g, 93% yield) as a colourless oil.

reactant | Di-tert-butyldicarbonate | 22.16 mmol, 4.84 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | rac-2-amino-2-(3-bromo-phenyl)-propan-1-ol | 7.39 mmol, 1.7 g | NC(CO)(C)C1=CC(=CC=C1)Br | C9H12BrNO
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | rac-[1-(3-bromo-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid tert-butyl ester | 2.36 g, 93% yield | C(C)(C)(C)OC(NC(CO)(C)C1=CC(=CC=C1)Br)=O | C14H20BrNO3
